US04086242
Preparation of 4-Methoxy-1-cyclohexyl-1H-benzotriazole
A slurry of 1.5 g. of 4-chloro-1-cyclohexylbenzotriazole, 15 g. of sodium methoxide, 10 g. cuprous iodide in 50 ml. of 2,4,6-trimethyl pyridine and 10 ml. of methanol is heated to the reflux temperature for 26 hours. The reaction is cooled and poured into 150 ml. of 10% hydrochloric acid. The product is extracted with ethyl ether and on evaporation of the solvent, 0.5 g. of an oil was obtained which solidified on standing. Recrystallized the crude product from ethyl ether, m.p. 118°-120° C. The analytical sample has a m.p. 133°-134° C.

reactant | 4-chloro-1-cyclohexylbenzotriazole | ClC1=CC=CC=2N(N=NC21)C2CCCCC2 | C12H14ClN3
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2,4,6-trimethyl pyridine | CC1=NC(=CC(=C1)C)C | C8H11N
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-Methoxy-1-cyclohexyl-1H-benzotriazole | COC1=CC=CC=2N(N=NC21)C2CCCCC2 | C13H17N3O
